US06013792
Alternatively, (3R,10S)-5-methyl-3-(9-oxo-1,8-diazatricyclo-[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-ylcarbamoyl)hexanoic acid t-butyl ester (3.24 g, 6.5 mmol) was taken up in 95% TFA (aqueous) (30 mL) at 0° C. and then stirred for 20 minutes. The ice bath was then removed and the mixture was stirred for another 1 hour. After concentrating it to an oil, the residue was taken up in ethyl acetate (250 mL) and washed with water (7×150 mL). The organic layer was dried over Na2SO4, filtered and evaporated to dryness to yield a single stereoisomer of (3R,10S)-5-methyl-3-(9-oxo-1,8-diaza-tricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-ylcarbamoyl)hexanoic acid as a white powder, 2.83 g (98.4% yield); MS: 442 (M+H)+

reactant | (3R,10S)-5-methyl-3-(9-oxo-1,8-diazatricyclo-[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-ylcarbamoyl)hexanoic acid t-butyl ester | 6.5 mmol, 3.24 g | C(C)(C)(C)OC(C[C@@H](CC(C)C)C(N[C@@H]1C(NCCCCCCN2C=3C=CC=CC3C(C1)=C2)=O)=O)=O | C29H43N3O4
solvent | TFA | 30 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (3R,10S)-5-methyl-3-(9-oxo-1,8-diaza-tricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-ylcarbamoyl)hexanoic acid | 98.4% yield | CC(C[C@H](CC(=O)O)C(N[C@@H]1C(NCCCCCCN2C=3C=CC=CC3C(C1)=C2)=O)=O)C | C25H35N3O4
